US07407961B2
To a suspention of 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-(2-pyridyl)-2-pyrazinecarboxamide (52 mg) in dioxane (0.5 ml) was added an aq. NaOH (2M, 1 ml) and this solution was heated at 100° C. for 4 hours. This reaction mixture was cooled to room temperature and the pH of this solution was adjusted to 2.5 with 2N aq. HCl. This solution was evaporated under reduced pressure to give yellow solid. A suspension of this yellow solid in 1,2-dichlorobenzene (2 ml) was heated at 200° C. and stirred for 4 hours. This reaction mixture was cooled to room temperature. To this solution was added IPE and stirred at room temperature for 1 hour. The precipitate was collected by filtration and washed with IPE. The residual solid was placed on a column of silica-gel and eluted with CHCl3—MeOH—28% aq. ammonia (15:1:0.1). The eluent was evaporated and the residue was purified by recrystallization from EtOAc-IPE to give 5-[5-amino-3-(2-pyridyl)-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone (5 mg) as a pale yellow crystal.

reactant | 3-amino-6-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridyl)-5-(2-pyridyl)-2-pyrazinecarboxamide | 52 mg | NC=1C(=NC(=C(N1)C1=NC=CC=C1)C1=CN(C(C=C1)=O)C(C)C)C(=O)N | C18H18N6O2
reactant | NaOH | 2M, 1 ml | [OH-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | 1,2-dichlorobenzene | 2 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 5-[5-amino-3-(2-pyridyl)-2-pyrazinyl]-1-isopropyl-2(1H)-pyridone | 5 mg | NC=1N=C(C(=NC1)C=1C=CC(N(C1)C(C)C)=O)C1=NC=CC=C1 | C17H17N5O
